US08791132B2
3,9-Dimethyl-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole (1 g, 4.6 mmol) in DMF (10 mL) was stirred at RT for 5 min. NaH (60%, 933 mg, 23.33 mmol) was added and the reaction mixture was stirred at RT for 10 min. 3-(2-methyloxiran-2-yl)pyridine (1.26 g, 9.34 mmol) was added to the reaction mixture and the mixture was stirred at RT for 16 h. The reaction mixture was poured into ice-water and extracted with EtOAc (200 mL). The organic layer was dried over anhydrous sodium sulfate and concentrated under vacuum to obtain the crude product, which was purified by column chromatography using silica gel: 100-200 mesh and 10% MeOH/DCM/1 mL NH4OH to obtain 600 mg of 1-(3,9-dimethyl-2,3,4,5-tetrahydroazepino[4,5-b]indol-6(1H)-yl)-2-(pyridin-3-yl)propan-2-ol. 1H NMR (CDCl3, freebase) δ (ppm): 8.74 (s, 1H), 8.54 (d, 1H), 7.71 (d, 1H), 7.26 (s, 1H), 7.27 (m, 1H),7.19 (d, 1H), 6.96 (d, 1H), 4.26 (dd, 2H), 2.91 (m, 2H), 2.9 (m, 4H), 2.74 (m, 2H), 2.44 (s, 6H), 1.63 (s, 3H). Separation by chiral HPLC provided enantiomers II-135a-b.

reactant | 3,9-Dimethyl-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | 4.6 mmol, 1 g | CN1CCC=2NC=3C=CC(=CC3C2CC1)C | C14H18N2
reactant | NaH | 23.33 mmol, 933 mg | [H-].[Na+]
reactant | 3-(2-methyloxiran-2-yl)pyridine | 9.34 mmol, 1.26 g | CC1(OC1)C=1C=NC=CC1 | C8H9NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-(3,9-dimethyl-2,3,4,5-tetrahydroazepino[4,5-b]indol-6(1H)-yl)-2-(pyridin-3-yl)propan-2-ol | 600 mg | CN1CCC=2N(C=3C=CC(=CC3C2CC1)C)CC(C)(O)C=1C=NC=CC1 | C22H27N3O
